US05508440
2-hydroxymethyl-5-iodothiophene was refluxed with Cu powder in dimethyl formamide ("DMF"). This Ullmann condensation also yielded a very low amount of 2,5-dihydroxymethyl bithiophene.

reactant | 2-hydroxymethyl-5-iodothiophene | OCC=1SC(=CC1)I | C5H5IOS
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2,5-dihydroxymethyl bithiophene | OCC1(SC(=CC1)CO)C=1SC=CC1 | C10H12O2S2
